US07485722B2
4-(4-Iodo-benzyl)-morpholine
1-Bromomethyl-4-iodo-benzene (320 mg, 1.08 mmol) and morpholine (1 mL, 11.47 mmol) were combined. The reaction mixture was heated at 70° C. for 4 hours and then diluted with ethyl acetate. The resulting mixture was filtered and the filtrate was concentrated and dried. The residue was then dissolved in dichloromethane (10 mL), washed with water (4 mL), washed with brine (4 mL), dried over sodium sulfate and concentrated to give the product as an off-white solid (300 mg, 92%). 1H NMR (300 MHz, CDCl3): δ 7.64 (d, 2H), 7.09 (d, 2H), 3.7 (t, 4H), 3.43 (s, 2H), 2.43 (t, 4H).

reactant | 1-Bromomethyl-4-iodo-benzene | 1.08 mmol, 320 mg | BrCC1=CC=C(C=C1)I | C7H6BrI
reactant | morpholine | 11.47 mmol, 1 mL | N1CCOCC1 | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-Iodo-benzyl)-morpholine | 300 mg, 92% | IC1=CC=C(CN2CCOCC2)C=C1 | C11H14INO
